US09290517B2
3-(4-bromophenyl)-1-(2,2,2-trifluoroethyl)pyrrolidine
Diisopropylethylamine (0.26 ml, 1.489 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.13 ml, 0.902 mmol) were added to a stirred solution of 3-(4-bromophenyl)pyrrolidine 2,2,2-trifluoroacetate (254.5 mg, 0.748 mmol) in dioxane (3.0 ml). The reaction mixture was heated to 80° C. After 17 hours, the reaction mixture was cooled to room temperature and evaporated under reduced pressure to give a yellow residue. The residue was dissolved in dichloromethane and loaded onto a 5 g silica solid load cartridge. The residue was purified using an ISCO Rf and a 12 g silica column (CV=16.8 ml). The column was eluted as follows: 100% dichloromethane (3 CV), 0-3% MeOH/dichloromethane gradient (17 CV), 3% MeOH/dichloromethane (10 CV), 3-5% MeOH/dichloromethane gradient (15 CV), 5% MeOH/dichloromethane (5 CV) at 30 ml/min. The product fractions were combined and evaporated under reduced pressure to give the title compound as a yellow oil. LC-MS: calculated for C12H13BrF3N 307.02, 309.02 observed m/e: 308.05, 310.05 (M+H)+ (Rt 1.02/2 min).

reactant | Diisopropylethylamine | 1.489 mmol, 0.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.902 mmol, 0.13 ml | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | 3-(4-bromophenyl)pyrrolidine 2,2,2-trifluoroacetate | 0.748 mmol, 254.5 mg | FC(C(=O)O)(F)F.BrC1=CC=C(C=C1)C1CNCC1
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4-bromophenyl)-1-(2,2,2-trifluoroethyl)pyrrolidine | BrC1=CC=C(C=C1)C1CN(CC1)CC(F)(F)F | C12H13BrF3N
